US06869956B2
Methyl-3-(1-methyl-imidazol-5-yl)-2-naphthoate
To a mixture of methyl-3-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthoate (Preparation 13) (15.37 g, 49.3 mmol) and 5-bromo-1-methyl-1H-imidazole (9.06 g, 49.3 mmol) in toluene/EtOH (350 mL/36 mL) were added Pd(PPh3)4 (11.37 g, 9.84 mmol), Na2CO3 (20.9 g, 197.2 mmol) and water (106 mL). The mixture was degassed, purged with N2, and heated to reflux for 20 hours. It was then cooled to RT, neutralized with HCl (1.0 N, 100 mL), and concentrated in vacuo. The residue was partitioned between water (300 mL) and EtOAc (1 L). The organic layer was washed with water (2 L) and brine, dried over MgSO4, filtered and evaporated in vacuo. The resulting crude material was submitted to flash chromatography (1.5% MeOH/CHCl3), furnishing the title compound as a light-yellow solid (9.5 g, 72%). 1H NMR (CDCl3): 8.53 (s, 1H), 7.99 (d, J=8.1, 1H), 7.80 (d, J=8.1, 1H), 7.77 (s, 1H), 7.56 (m, 1H), 7.54 (m, 1H), 7.54 (s, 1H), 6.94 (s, 1H), 3.73 (s, 3H), 3.29 (s, 3H). (ESI) m/z (M+H)+=267.11.

reactant | methyl-3-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthoate | 49.3 mmol, 15.37 g | COC(=O)C1=CC2=CC=CC=C2C=C1B1OC(C(O1)(C)C)(C)C | C18H21BO4
reactant | 5-bromo-1-methyl-1H-imidazole | 49.3 mmol, 9.06 g | BrC1=CN=CN1C | C4H5BrN2
reactant | Na2CO3 | 197.2 mmol, 20.9 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 106 mL | O | H2O
solvent | toluene EtOH | 350 mL | C1(=CC=CC=C1)C.CCO
catalyst | Pd(PPh3)4 | 9.84 mmol, 11.37 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl-3-(1-methyl-imidazol-5-yl)-2-naphthoate | 9.5 g, 72% | COC(=O)C1=CC2=CC=CC=C2C=C1C1=CN=CN1C | C16H14N2O2
